US04337354
Methyl{[6,7-dichloro-1-oxo-2-(3-oxobutyl)-2-vinyl-2,3-dihydro-1H-inden-5-yl]oxy}acetate (7.3 gm., 0.02 mole) is dissolved in a solution of methanol (100 ml) and water (50 ml.) containing sodium hydroxide (9.43 gm., 0.236 mole), taking care to keep the temperature below 25° C. The solution is kept at ambient temperature for 48 hours. The solution is concentrated in vacuo to 100 ml. in a rotary evaporator at room temperature and poured into water (250 ml.) containing concentrated hydrochloric acid (26 ml.) with cooling. The product is separated by filtration, washed with water, dried and recrystallized from a mixture of acetic acid and water to obtain [(5,6-dichloro-3-oxo-9a-vinyl-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid.

reactant | Methyl{[6,7-dichloro-1-oxo-2-(3-oxobutyl)-2-vinyl-2,3-dihydro-1H-inden-5-yl]oxy}acetate | 0.02 mole, 7.3 gm | COC(COC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C=C)CCC(C)=O)=O | C18H18Cl2O5
reactant | sodium hydroxide | 0.236 mole, 9.43 gm | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | [(5,6-dichloro-3-oxo-9a-vinyl-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)C=C)=O | C17H14Cl2O4
